US07732438B2
Step B: N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-thioxoazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (0.45 mL, 3.25 mmol) was added to a solution of tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-thioxoazepan-3-ylcarbamate (416 mg, 1.62 mmol) and 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carbonyl chloride (466 mg, 1.66 mmol) in dichloromethane (70 mL) and the mixture heated to reflux. After 18 h, the mixture was allowed to cool to ambient temperature and concentrated. Purification by silica gel chromatography (100% dichloromethane o 95% dichloromethane/methanol) gave the title compound (685 mg). MS 501.0 (M+1).

reactant | Triethylamine | 3.25 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-2-thioxoazepan-3-ylcarbamate | 1.62 mmol, 416 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=S)NC(OC(C)(C)C)=O | C17H22F2N2O2S
reactant | 4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carbonyl chloride | 1.66 mmol, 466 mg | O=C1N(C=2C(=NC=CC2)N1)C1CCN(CC1)C(=O)Cl | C12H13ClN4O2
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-thioxoazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 685 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=S)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C24H26F2N6O2S
